US04638067
4-[6-(Acetylcyclopropylamino)-3-fluoro-2-pyridinyl]1-piperazinecarboxylic acid, ethyl ester
To 800 ml of refluxing toluene was added in portions, as a solid, 46.2 g (0.1 mole) of 2-[4-(ethoxycarbonyl)-1-piperazinyl]-6-(acetylcyclopropylamino)-3-pyridinediazonium tetrafluoroborate. After the addition was complete, the reaction was refluxed for ten minutes and the toluene was decanted from the insoluble precipitate. The toluene was evaporated in vacuo and the residue was partitioned between chloroform and water. The chloroform layer was washed with 5% aqueous sodium bicarbonate, water, dried over magnesium sulfate and evaporated in vacuo to give 13.7 g of the title compound, as a viscous oil. An additional 10.2 g could be obtained by partitioning the original toluene insoluble material in chloroform and water. The organic layer was washed with 5% aqueous sodium bicarbonate, dried over magnesium sulfate, evaporated in vacuo and the residue was chromatographed on silica gel eluting with chloroform/ethyl acetate (6:4). This fraction was also a viscous oil which did not crystallize upon standing. Both fractions were of sufficient purity to be used as is in the ensuing steps.

reactant | 2-[4-(ethoxycarbonyl)-1-piperazinyl]-6-(acetylcyclopropylamino)-3-pyridinediazonium tetrafluoroborate | 0.1 mole, 46.2 g | F[B-](F)(F)F.C(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1[N+]#N)N(C1CC1)C(C)=O
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(Acetylcyclopropylamino)-3-fluoro-2-pyridinyl]1-piperazinecarboxylic acid, ethyl ester | 13.7 g | C(C)(=O)N(C1=CC=C(C(=N1)N1CCN(CC1)C(=O)OCC)F)C1CC1 | C17H23FN4O3
